US04115394
(b) 4-Chloro-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine
A mixture of 193.9 gms. of 1-ethyl-4-hydroxy-6-phenyl-1H-pyrazolo[3,4-b]pyridine (0.7 mol.) and 1000 ml. of phosphorus oxychloride is refluxed for 5 hours. The excess phosphorus oxychloride is removed in vacuo and the residue is treated with ice water. The mixture is then extracted three times with ether, the ether layer is separated, dried over sodium sulfate, treated with charcoal and concentrated in vacuo. The residue solidifies on cooling (142.4 gms = 79%; m.p. 43°-45° C.) and the product, 4-chloro-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine is recrystallized from hexane, m.p. 46°-48° C.

reactant | 1-ethyl-4-hydroxy-6-phenyl-1H-pyrazolo[3,4-b]pyridine | 0.7 mol | C(C)N1N=CC=2C1=NC(=CC2O)C2=CC=CC=C2 | C14H13N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine | ClC1=C2C(=NC(=C1)C1=CC=CC=C1)N(N=C2)CC | C14H12ClN3
